US07300944B2
3-(3,3-Dimethoxy-cyclobutyl)-3-oxo-propionitrile
To 200 mL of THF at −78° C. was added n-BuLi (207.0 mL, 517.0 mmol, 2.5 M in hexanes). After the reaction temperature equilibrated (˜15 min), a solution of acetonitrile (27.0 mL, 517.0 mmol in 100 mL of THF) was added dropwise via addition funnel over a 20 min period. The resulting milky white slurry was allowed to stir one hr before a solution of 3,3-dimethoxy-cyclobutanecarboxylic acid methyl ester (45.0 g, 258.6 mmol in 150 mL of THF) was added down the side of the flask over a 20 min period. After one hr, the reaction was warmed to −45° C. (acetonitrile/CO2), and allowed to stir for two hr. The reaction was quenched cold by the dropwise addition of 2 N HCl (˜260 mL), pH=7 and then diluted with EtOAc (1 L). The layers were separated and the aqueous layer was extracted with CH2Cl2 (2×600 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure to yield the title compound (quantitative yield) as a yellow oil that was used with out further purification. Rf 0.32 (40% EtOAc/hexanes). m/z (APCI+) 182 (M−1).

reactant | n-BuLi | 517.0 mmol, 2.5 M, 207.0 mL | [Li]CCCC
reactant | acetonitrile | 517.0 mmol, 27.0 mL | C(C)#N | C2H3N
reactant | 3,3-dimethoxy-cyclobutanecarboxylic acid methyl ester | 258.6 mmol, 150 mL, 45.0 g | COC(=O)C1CC(C1)(OC)OC | C8H14O4
reactant | acetonitrile CO2 | C(C)#N.C(=O)=O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-(3,3-Dimethoxy-cyclobutyl)-3-oxo-propionitrile | quantitative yield | COC1(CC(C1)C(CC#N)=O)OC | C9H13NO3
